US04236002
3-Azidomethyl-4-hydroxybenzeneacetic acid
A solution of 3-chloromethyl-4-hydroxybenzeneacetic acid (0.1 mole) and sodium azide (0.1 mole) in 250 ml of water is stirred at room temperature for about 16 hours. Removal of the solvent gives the title compound combined with sodium chloride.

reactant | 3-chloromethyl-4-hydroxybenzeneacetic acid | 0.1 mole | ClCC=1C=C(C=CC1O)CC(=O)O | C9H9ClO3
reactant | sodium azide | 0.1 mole | [N-]=[N+]=[N-].[Na+]
solvent | water | 250 ml | O | H2O
product | 3-Azidomethyl-4-hydroxybenzeneacetic acid | N(=[N+]=[N-])CC=1C=C(C=CC1O)CC(=O)O | C9H9N3O3
